US09422271B2
A mixture of 5-bromothiophene-2-sulfonyl chloride (2.5 g, 9.6 mmol, 1.0 eq) in CH2Cl2 (100 mL) was stirred at 0° C., ethane-1, 2-diamine (2.3 g, 38.24 mmol, 4 eq) was added drop-wise. Then, the mixture was stirred at 0° C. for 0.5 h. Water was added and extracted with EA (6×80 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated to give N-(2-aminoethyl)-5-bromothiophene-2-sulfonamide (2.51 g, 92.0%). LC-MS (m/z)=284.1 [M+H]+.

reactant | 5-bromothiophene-2-sulfonyl chloride | 9.6 mmol, 2.5 g, 1.0 eq | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | ethane-1, 2-diamine | 38.24 mmol, 2.3 g, 4 eq | C(CN)N | C2H8N2
reactant | Water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-5-bromothiophene-2-sulfonamide | 2.51 g, 92.0% | NCCNS(=O)(=O)C=1SC(=CC1)Br | C6H9BrN2O2S2
